US07153855B2
To a cold (0° C.) solution of N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine (21 mg, 0.04 mmol) in dichloromethane (3 mL) was added triethylamine (0.02 mL, 0.13 mmol) and methanesulfonyl chloride (0.05 mL). The resultant solution was stirred at 0° C. for 1 hour and saturated aqueous sodium bicarbonate was added. The organic layer was washed with brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration followed by flash chromatography (5% methanol in dichloromethane) provided N-(4-{[3-[2-(Cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)methanesulfonamide (25 mg, 99%) a yellow solid. 1H NMR (CDCl3): δ 8.01 (d, 1 H), 7.79 (d, 1 H), 7.59 (d, 2 H), 7.32 (m, 1 H), 7.01 (d, 2 H), 6.34 (d, 1 H), 6.13 (m, 1 H), 6.00 (d, 1 H), 5.34 (d, 1 H), 5.02 (m, 1 H), 4.38 (m, 1 H), 3.90 (s, 3 H), 3.38 (m, 2 H), 3.13 (m, 2 H), 2.94 (s, 3 H), 2.14–2.06 (m, 2 H), 1.82–1.54 (m, 10 H); MS m/z 550 (M+1).

reactant | N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine | 0.04 mmol, 21 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCN)C2=CC=C(C=C2)OC | C27H33N7O
reactant | triethylamine | 0.13 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(4-{[3-[2-(Cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)methanesulfonamide | 25 mg, 99% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCNS(=O)(=O)C)C2=CC=C(C=C2)OC | C28H35N7O3S
